US04003909
1.4 g. (0.015 mole) of methyl chloroformate is added to a mixture of 2.4 g. (0.01 mole) of 5-(2-pyridyl)-3-(4-aminophenyl)-1,2,4-oxadiazole, from part (b), and 2.1 g. of potassium carbonate in 50 cc. of dioxane. The resulting mixture is refluxed for 0.5 hours. It is then concentrated to dryness and the residue is crystallized from benzeneethyl acetate to yield [4-[5-(2-pyridyl)-1,2,4-oxadiazol-3-yl]-phenyl]carbamic acid, methyl ester.

reactant | methyl chloroformate | 0.015 mole | ClC(=O)OC | C2H3ClO2
reactant | 5-(2-pyridyl)-3-(4-aminophenyl)-1,2,4-oxadiazole | 0.01 mole | N1=C(C=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)N | C13H10N4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [4-[5-(2-pyridyl)-1,2,4-oxadiazol-3-yl]-phenyl]carbamic acid, methyl ester | N1=C(C=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)NC(OC)=O | C15H12N4O3
